US04666930
19.7 g (0.1 mol) of 3-hydrazino-2H,3H-1,2-benzisothiazole 1,1-dioxide are dissolved in 200 ml of dioxane at 40°-50° C., and 8 g (0.11 mol) of isobutyraldehyde are added dropwise to the thoroughly stirred mixture. The product is precipitated directly during this procedure. When the addition is complete, the mixture is heated to 80°-90° C. for about 20 minutes and then cooled, and the crystals are filtered off under suction. 22.1 g (88.1% of theory) of 3-isobutylidenehydrazino-1,2-benzisothiazole 1,1-dioxide of melting point 225° C. are obtained in this manner.

reactant | 3-hydrazino-2H,3H-1,2-benzisothiazole 1,1-dioxide | 0.1 mol, 19.7 g | N(N)C1NS(C2=C1C=CC=C2)(=O)=O | C7H9N3O2S
reactant | isobutyraldehyde | 0.11 mol, 8 g | C(C(C)C)=O | C4H8O
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
product | 3-isobutylidenehydrazino-1,2-benzisothiazole 1,1-dioxide | 22.1 g, 88.1% | C(C(C)C)=NNC1=NS(C2=C1C=CC=C2)(=O)=O | C11H13N3O2S
